US08183380B2
Step B: 9-Cyclopropyl-9-aza-bicyclo[3.3.1]nonan-3-one oxime:
A mixture of the above described 9-cyclopropyl-9-aza-bicyclo[3.3.1]nonan-3-one (890 mg, 5.0 mmol) in ethanol (20 mL) and hydroxylamine hydrochloride (366 mg, 5.3 mmol) was refluxed for 6 h. The reaction mixture was evaporated totally, the residue extracted with ethyl acetate and sodium bicarbonate solution, the organic layers dried over Na2SO4, filtered and the solvents evaporated to give the title compound as a white solid. (890 mg, 100%); MS: m/e=195.2 (M+H+).

reactant | 9-cyclopropyl-9-aza-bicyclo[3.3.1]nonan-3-one | 5.0 mmol, 890 mg | C1(CC1)N1C2CC(CC1CCC2)=O | C11H17NO
reactant | hydroxylamine hydrochloride | 5.3 mmol, 366 mg | Cl.NO
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 9-Cyclopropyl-9-aza-bicyclo[3.3.1]nonan-3-one oxime | C1(CC1)N1C2CC(CC1CCC2)=NO | C11H18N2O
